*$
*//-----------------------------------------------------------------------//
*//   Part No. 	: EKWB451ELL151MMN3S
*//   Date      	: 2024/03/13
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKWB451ELL151MMN3S_20deg-C 1 2

C1 4 2 9.77e-07
C2 5 2 1.19e-04
C3 6 2 9.67e-02
C4 7 2 2.94e-03
R1 3 4 1.20e-01
R2 4 5 2.05e-01
R3 5 6 4.54e+03
R4 6 7 9.91e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKWB451ELL151MMN3S_-40deg-C 1 2

C1 4 2 1.20e-07
C2 5 2 1.62e-07
C3 6 2 6.40e-07
C4 7 2 1.25e-04
R1 3 4 5.00e-01
R2 4 5 1.00e+01
R3 5 6 1.00e-05
R4 6 7 4.00e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKWB451ELL151MMN3S_105deg-C 1 2

C1 4 2 1.30e-04
C2 5 2 6.43e-06
C3 6 2 6.15e-06
C4 7 2 1.69e-05
R1 3 4 3.92e-02
R2 4 5 5.04e+00
R3 5 6 1.24e+02
R4 6 7 4.26e+03
L1 1 3 8.00e-09

.ENDS

*$
