*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EKXJ161ELL390MJ16S
*//   Date        : 2022/01/31 
*//   Update 	  : 2022/01/31 Added SPICE model (-40deg.C/105deg.C)
*//		  : 2022/01/31 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXJ161ELL390MJ16S_20deg-C 1 2

C1 4 2 7.35e-06
C2 5 2 2.12e-05
C3 6 2 5.81e-06
R1 3 4 4.85e-01
R2 4 5 3.49e-01
R3 5 6 1.00e-06
L1 1 3 1.00e-09

.ENDS

.SUBCKT EKXJ161ELL390MJ16S_-40deg-C 1 2

C1 4 2 5.00e-08
C2 5 2 2.55e-06
C3 6 2 2.62e-05
R1 3 4 7.00e+00
R2 4 5 3.14e+01
R3 5 6 2.96e+01
L1 1 3 1.00e-09

.ENDS

.SUBCKT EKXJ161ELL390MJ16S_105deg-C 1 2

C1 4 2 2.06e-05
C2 5 2 1.46e-05
C3 6 2 1.69e-06
R1 3 4 6.58e-02
R2 4 5 8.13e-02
R3 5 6 1.88e+02
L1 1 3 1.00e-09

.ENDS
*$
