*$
*//-----------------------------------------------------------------------//
*//   Part        : EKXJ201ELL470MJ20S
*//   Date        : 2023/08/01
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXJ201ELL470MJ20S_20deg-C 1 2

C1 4 2 1.49e-06
C2 5 2 2.22e-05
C3 6 2 1.67e-05
R1 3 4 3.06e-01
R2 4 5 1.74e-01
R3 5 6 1.28e-02
L1 1 3 7.00e-09

.ENDS

.SUBCKT EKXJ201ELL470MJ20S_-40deg-C 1 2

C1 4 2 4.79e-08
C2 5 2 2.01e-06
C3 6 2 3.11e-05
R1 3 4 3.86e+00
R2 4 5 3.01e+01
R3 5 6 1.22e+01
L1 1 3 7.00e-09

.ENDS

.SUBCKT EKXJ201ELL470MJ20S_105deg-C 1 2

C1 4 2 2.88e-06
C2 5 2 3.32e-05
C3 6 2 7.23e-06
R1 3 4 1.39e-02
R2 4 5 4.81e-02
R3 5 6 1.20e-02
L1 1 3 7.00e-09

.ENDS
*$