*$
*//-----------------------------------------------------------------------//
*//   Part        : EKXJ201ELL101MK25S
*//   Date        : 2023/09/19
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXJ201ELL101MK25S_20deg-C 1 2

C1 4 2 4.87e-06
C2 5 2 6.34e-05
C3 6 2 2.85e-05
R1 3 4 1.29e-01
R2 4 5 5.25e-02
R3 5 6 1.75e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXJ201ELL101MK25S_-40deg-C 1 2

C1 4 2 1.72e-07
C2 5 2 4.08e-06
C3 6 2 8.21e-05
R1 3 4 2.17e+00
R2 4 5 1.00e+01
R3 5 6 6.25e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXJ201ELL101MK25S_105deg-C 1 2

C1 4 2 9.91e-05
C2 5 2 2.94e-06
C3 6 2 2.03e-06
R1 3 4 3.09e-02
R2 4 5 3.08e+01
R3 5 6 4.98e+02
L1 1 3 8.00e-09

.ENDS
*$