*$
*//-----------------------------------------------------------------------//
*//   Part        : EKXJ201ELL820MK20S
*//   Date        : 2023/09/19
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXJ201ELL820MK20S_20deg-C 1 2

C1 4 2 7.98e-06
C2 5 2 4.39e-05
C3 6 2 2.42e-05
R1 3 4 1.92e-01
R2 4 5 5.79e-02
R3 5 6 5.70e-03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXJ201ELL820MK20S_-40deg-C 1 2

C1 4 2 1.47e-07
C2 5 2 3.67e-06
C3 6 2 6.32e-05
R1 3 4 2.82e+00
R2 4 5 1.31e+01
R3 5 6 7.18e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXJ201ELL820MK20S_105deg-C 1 2

C1 4 2 7.70e-05
C2 5 2 4.51e-06
C3 6 2 2.56e-06
R1 3 4 3.89e-02
R2 4 5 4.01e+00
R3 5 6 1.66e+02
L1 1 3 8.00e-09

.ENDS
*$