*$
*//-----------------------------------------------------------------------//
*//   Part        : EKXJ401ELL270MK20S
*//   Date        : 2023/09/19
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXJ401ELL270MK20S_20deg-C 1 2

C1 4 2 5.73e-07
C2 5 2 1.93e-05
C3 6 2 3.82e-06
R1 3 4 4.17e-01
R2 4 5 4.66e-01
R3 5 6 3.31e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXJ401ELL270MK20S_-40deg-C 1 2

C1 4 2 4.13e-08
C2 5 2 3.69e-07
C3 6 2 1.87e-05
R1 3 4 1.87e+00
R2 4 5 3.36e+01
R3 5 6 5.92e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXJ401ELL270MK20S_105deg-C 1 2

C1 4 2 2.41e-05
C2 5 2 1.09e-06
C3 6 2 8.47e-07
R1 3 4 9.10e-02
R2 4 5 2.57e+01
R3 5 6 1.38e+02
L1 1 3 8.00e-09

.ENDS
*$