*$
*//-----------------------------------------------------------------------//
*//   Part        : EKXJ201ELL221MM25S
*//   Date        : 2023/01/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXJ201ELL221MM25S_20deg-C 1 2

C1 4 2 1.52e-06
C2 5 2 1.61e-04
C3 6 2 5.82e-05
R1 3 4 3.81e-03
R2 4 5 9.77e-02
R3 5 6 2.47e-01
L1 1 3 8.00e-09

.ENDS
*$