*$
*//-----------------------------------------------------------------------//
*//   Part        : EKXN401ELL101ML25S
*//   Date        : 2023/09/19
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model     : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXN401ELL101ML25S_20deg-C 1 2

C1 4 2 1.49e-06
C2 5 2 6.50e-05
C3 6 2 2.08e-05
R1 3 4 2.03e-01
R2 4 5 2.51e-01
R3 5 6 8.89e-01
L1 1 3 9.00e-09

.ENDS

.SUBCKT EKXN401ELL101ML25S_-40deg-C 1 2

C1 4 2 9.47e-08
C2 5 2 8.74e-07
C3 6 2 5.43e-05
R1 3 4 6.71e-01
R2 4 5 1.91e+01
R3 5 6 4.39e+01
L1 1 3 9.00e-09

.ENDS

.SUBCKT EKXN401ELL101ML25S_105deg-C 1 2

C1 4 2 8.79e-05
C2 5 2 4.55e-06
C3 6 2 3.13e-06
R1 3 4 5.03e-02
R2 4 5 8.49e+00
R3 5 6 1.69e+02
L1 1 3 9.00e-09

.ENDS
*$