*$
*//-----------------------------------------------------------------------//
*//   Part        : EKXN401ELL680ML20S
*//   Date        : 2023/09/19
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//
.SUBCKT EKXN401ELL680ML20S_20deg-C 1 2

C1 4 2 1.65e-06
C2 5 2 4.64e-05
C3 6 2 1.15e-05
R1 3 4 3.72e-01
R2 4 5 3.34e-01
R3 5 6 2.34e+00
L1 1 3 9.00e-09

.ENDS

.SUBCKT EKXN401ELL680ML20S_-40deg-C 1 2

C1 4 2 7.34e-08
C2 5 2 6.01e-07
C3 6 2 3.89e-05
R1 3 4 1.12e+00
R2 4 5 3.35e+01
R3 5 6 7.34e+01
L1 1 3 9.00e-09

.ENDS

.SUBCKT EKXN401ELL680ML20S_105deg-C 1 2

C1 4 2 5.45e-05
C2 5 2 7.37e-06
C3 6 2 2.47e-06
R1 3 4 6.73e-02
R2 4 5 1.07e+00
R3 5 6 1.70e+02
L1 1 3 9.00e-09

.ENDS
*$