*$
*//-----------------------------------------------------------------------//
*//   Part No. 	: EKXN401ELL181MM35S
*//   Date        	: 2024/03/21
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXN401ELL181MM35S_20deg-C 1 2

C1 4 2 3.37e-05
C2 5 2 1.18e-04
C3 6 2 5.37e-06
C4 7 2 2.00e-07
R1 3 4 9.47e-02
R2 4 5 7.22e-02
R3 5 6 6.94e+02
R4 6 7 2.71e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXN401ELL181MM35S_-40deg-C 1 2

C1 4 2 1.83e-07
C2 5 2 5.46e-05
C3 6 2 9.18e-05
C4 7 2 8.15e-06
R1 3 4 3.63e-01
R2 4 5 1.09e+01
R3 5 6 1.40e+01
R4 6 7 3.72e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXN401ELL181MM35S_105deg-C 1 2

C1 4 2 1.49e-04
C2 5 2 8.61e-06
C3 6 2 2.86e-06
C4 7 2 6.00e-06
R1 3 4 2.27e-02
R2 4 5 6.93e+00
R3 5 6 1.00e+02
R4 6 7 7.86e+02
L1 1 3 8.00e-09

.ENDS

*$
