*$
*//-----------------------------------------------------------------------//
*//   Part No.	: EKXN401ELL560MM16S
*//   Date		: 2024/04/08
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXN401ELL560MM16S_20deg-C 1 2

C1 4 2 9.65e-08
C2 5 2 4.98e-06
C3 6 2 4.08e-05
C4 7 2 1.83e-06
R1 3 4 2.65e-02
R2 4 5 2.97e-01
R3 5 6 1.09e-01
R4 6 7 1.73e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXN401ELL560MM16S_-40deg-C 1 2

C1 4 2 1.41e-07
C2 5 2 4.88e-05
C3 6 2 3.02e+04
C4 7 2 4.32e+00
R1 3 4 5.50e+00
R2 4 5 4.18e+01
R3 5 6 8.16e+03
R4 6 7 3.15e+04
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXN401ELL560MM16S_105deg-C 1 2

C1 4 2 4.83e-05
C2 5 2 4.42e-07
C3 6 2 1.53e-06
C4 7 2 1.00e+01
R1 3 4 6.32e-02
R2 4 5 3.74e+02
R3 5 6 2.50e-02
R4 6 7 1.00e+04
L1 1 3 8.00e-09

.ENDS

*$
