*$
*//-----------------------------------------------------------------------//
*//   Part        : EKXN421ELL181MM40S
*//   Date        : 2023/06/28
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXN421ELL181MM40S_20deg-C 1 2

C1 4 2 4.10e-06
C2 5 2 1.36e-04
C3 6 2 1.76e-05
R1 3 4 1.69e-01
R2 4 5 1.64e-01
R3 5 6 4.32e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXN421ELL181MM40S_-40deg-C 1 2

C1 4 2 1.88e-07
C2 5 2 1.09e-06
C3 6 2 1.01e-04
R1 3 4 3.92e-01
R2 4 5 1.47e+01
R3 5 6 4.06e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXN421ELL181MM40S_105deg-C 1 2

C1 4 2 1.54e-04
C2 5 2 9.53e-06
C3 6 2 4.61e-06
R1 3 4 3.19e-02
R2 4 5 4.96e+00
R3 5 6 2.29e+02
L1 1 3 8.00e-09

.ENDS
*$