*$
*//-----------------------------------------------------------------------//
*//   Part No.	: EKXN451ELL181MM40S
*//   Date        	: 2024/03/12
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXN451ELL181MM40S_20deg-C 1 2

C1 4 2 1.00e-06
C2 5 2 1.63e-06
C3 6 2 1.34e-04
C4 7 2 1.00e+03
R1 3 4 1.50e-01
R2 4 5 8.00e-02
R3 5 6 1.24e-01
R4 6 7 3.89e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXN451ELL181MM40S_-40deg-C 1 2

C1 4 2 1.35e-07
C2 5 2 5.50e-08
C3 6 2 4.92e-06
C4 7 2 1.38e-04
R1 3 4 4.26e-01
R2 4 5 3.10e+01
R3 5 6 9.51e-01
R4 6 7 2.50e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXN451ELL181MM40S_105deg-C 1 2

C1 4 2 1.56e-04
C2 5 2 8.61e-06
C3 6 2 2.86e-06
C4 7 2 6.00e-06
R1 3 4 3.26e-02
R2 4 5 2.33e+00
R3 5 6 1.00e+02
R4 6 7 7.86e+02
L1 1 3 8.00e-09

.ENDS

*$
