*$
*//-----------------------------------------------------------------------//
*//   Part No.	: EKXQ451ELL101MLP1S
*//   Date        	: 2024/04/08
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator  	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXQ451ELL101MLP1S_20deg-C 1 2

C1 4 2 6.38e-07
C2 5 2 8.10e-05
C3 6 2 4.05e-08
C4 7 2 1.47e-04
R1 3 4 2.07e-01
R2 4 5 5.97e-01
R3 5 6 6.13e+03
R4 6 7 9.69e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXQ451ELL101MLP1S_-40deg-C 1 2

C1 4 2 7.88e-08
C2 5 2 1.53e-07
C3 6 2 1.00e-06
C4 7 2 7.34e-05
R1 3 4 4.38e-01
R2 4 5 2.40e+01
R3 5 6 4.40e+01
R4 6 7 8.00e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXQ451ELL101MLP1S_105deg-C 1 2

C1 4 2 7.87e-05
C2 5 2 9.31e-06
C3 6 2 2.67e-06
C4 7 2 2.35e-06
R1 3 4 5.82e-02
R2 4 5 3.84e-01
R3 5 6 3.54e+01
R4 6 7 1.19e+03
L1 1 3 8.00e-09

.ENDS

*$
