*$
*//-----------------------------------------------------------------------//
*//   Part No.	: EKXQ451ELL161MM40S
*//   Date        	: 2024/03/12
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXQ451ELL161MM40S_20deg-C 1 2

C1 4 2 1.32e-08
C2 5 2 8.39e-07
C3 6 2 1.24e-04
C4 7 2 2.00e+03
R1 3 4 2.30e-06
R2 4 5 1.58e-01
R3 5 6 4.38e-01
R4 6 7 5.83e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXQ451ELL161MM40S_-40deg-C 1 2

C1 4 2 1.00e-07
C2 5 2 1.53e-07
C3 6 2 1.00e-06
C4 7 2 1.10e-04
R1 3 4 4.38e-01
R2 4 5 2.40e+01
R3 5 6 4.40e+01
R4 6 7 8.00e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXQ451ELL161MM40S_105deg-C 1 2

C1 4 2 1.26e-04
C2 5 2 1.26e-05
C3 6 2 4.24e-06
C4 7 2 2.89e-06
R1 3 4 4.60e-02
R2 4 5 1.15e-01
R3 5 6 1.00e+02
R4 6 7 2.00e+03
L1 1 3 8.00e-09

.ENDS

*$
