*$
*//-----------------------------------------------------------------------//
*//   Part No.	: EKXQ451ELL111MMN3S
*//   Date        	: 2024/03/20
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKXQ451ELL111MMN3S_20deg-C 1 2

C1 4 2 7.56e-10
C2 5 2 6.90e-07
C3 6 2 7.16e-05
C4 7 2 1.75e-05
R1 3 4 2.68e-01
R2 4 5 1.87e-03
R3 5 6 5.30e-01
R4 6 7 1.30e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXQ451ELL111MMN3S_-40deg-C 1 2

C1 4 2 1.00e-07
C2 5 2 1.53e-07
C3 6 2 1.00e-06
C4 7 2 1.10e-04
R1 3 4 4.38e-01
R2 4 5 2.40e+01
R3 5 6 4.40e+01
R4 6 7 8.00e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKXQ451ELL111MMN3S_105deg-C 1 2

C1 4 2 8.30e-06
C2 5 2 8.44e-05
C3 6 2 3.26e-06
C4 7 2 1.68e+03
R1 3 4 4.73e-02
R2 4 5 1.93e-02
R3 5 6 1.76e+02
R4 6 7 7.86e+03
L1 1 3 8.00e-09

.ENDS

*$
