*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EKY-630ELL391MK25S
*//   Date        : 2022/01/31 
*//   Update 	  : 2022/01/31 Added SPICE model (-40deg.C/105deg.C)
*//		  : 2022/01/31 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKY-630ELL391MK25S_20deg-C 1 2

C1 4 2 3.59e-04
C2 5 2 2.08e-05
C3 6 2 1.05e-05
R1 3 4 2.30e-02
R2 4 5 7.05e-01
R3 5 6 4.64e+01
L1 1 3 7.00e-09

.ENDS

.SUBCKT EKY-630ELL391MK25S_-40deg-C 1 2

C1 4 2 1.33e-06
C2 5 2 7.78e-05
C3 6 2 2.71e-04
R1 3 4 2.65e-01
R2 4 5 1.60e-01
R3 5 6 1.07e-01
L1 1 3 7.00e-09

.ENDS

.SUBCKT EKY-630ELL391MK25S_105deg-C 1 2

C1 4 2 3.76e-04
C2 5 2 2.23e-05
C3 6 2 1.25e-05
R1 3 4 1.10e-02
R2 4 5 1.14e+00
R3 5 6 4.73e+01
L1 1 3 7.00e-09

.ENDS
*$
