*$
*//-----------------------------------------------------------------------//
*//   Part        : EKYB630ELL222MM40S
*//   Date        : 2022/11/15
*//   Temperature :20deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKYB630ELL222MM40S_20deg-C 1 2

C1 4 2 1.89e-03
C2 5 2 1.26e-04
C3 6 2 7.08e-05
R1 3 4 1.08e-02
R2 4 5 4.30e-04
R3 5 6 5.02e+00
L1 1 3 1.20e-08

.ENDS

.SUBCKT EKYB630ELL222MM40S_105deg-C 1 2

C1 4 2 1.48e-03
C2 5 2 6.44e-04
C3 6 2 7.37e-05
R1 3 4 8.54e-03
R2 4 5 3.66e-02
R3 5 6 1.05e+01
L1 1 3 1.20e-08

.ENDS
*$