*$
*//-----------------------------------------------------------------------//
*//   Part        : EKZH350ELL561MJ20S
*//   Date        : 2022/08/23
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKZH350ELL561MJ20S_20deg-C 1 2

C1 4 2 5.08e-04
C2 5 2 6.43e-05
C3 6 2 2.27e-05
R1 3 4 1.64e-02
R2 4 5 3.25e-01
R3 5 6 1.75e+01
L1 1 3 7.00e-09

.ENDS

.SUBCKT EKZH350ELL561MJ20S_-40deg-C 1 2

C1 4 2 1.03e-06
C2 5 2 6.59e-05
C3 6 2 4.38e-04
R1 3 4 3.72e-01
R2 4 5 1.41e-01
R3 5 6 1.59e-01
L1 1 3 7.00e-09

.ENDS

.SUBCKT EKZH350ELL561MJ20S_105deg-C 1 2

C1 4 2 5.41e-04
C2 5 2 6.39e-05
C3 6 2 2.86e-05
R1 3 4 8.93e-03
R2 4 5 1.07e-01
R3 5 6 1.43e+01
L1 1 3 7.00e-09

.ENDS
*$