*$
*//-----------------------------------------------------------------------//
*//   Part        : EKZH350ELL222ML25S
*//   Date        : 2022/08/23
*//   Temperature : 20deg.C/-40deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKZH350ELL222ML25S_20deg-C 1 2

C1 4 2 1.88e-03
C2 5 2 2.45e-04
C3 6 2 6.28e-05
R1 3 4 9.38e-03
R2 4 5 1.28e-01
R3 5 6 1.41e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZH350ELL222ML25S_-40deg-C 1 2

C1 4 2 3.68e-05
C2 5 2 4.44e-04
C3 6 2 1.46e-03
R1 3 4 1.35e-01
R2 4 5 2.12e-02
R3 5 6 4.31e-02
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZH350ELL222ML25S_105deg-C 1 2

C1 4 2 1.36e-03
C2 5 2 8.57e-04
C3 6 2 9.84e-05
R1 3 4 7.57e-03
R2 4 5 1.73e-02
R3 5 6 4.34e+00
L1 1 3 8.00e-09

.ENDS
*$