*$
*//-----------------------------------------------------------------------//
*//   Part        : EKZN800ELL271MJ25S
*//   Date        : 2023/04/03
*//   Temperature : 20deg.C/-40deg.C/-25deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKZN800ELL271MJ25S_20deg-C 1 2

C1 4 2 1.90e-04
C2 5 2 4.08e-05
C3 6 2 5.94e-06
R1 3 4 4.66e-02
R2 4 5 1.47e-01
R3 5 6 9.06e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN800ELL271MJ25S_-40deg-C 1 2

C1 4 2 4.23e-07
C2 5 2 1.04e-04
C3 6 2 1.12e-04
R1 3 4 5.86e-01
R2 4 5 8.48e-01
R3 5 6 7.73e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN800ELL271MJ25S_-25deg-C 1 2

C1 4 2 2.08e-06
C2 5 2 2.06e-04
C3 6 2 6.22e-06
R1 3 4 2.64e-01
R2 4 5 1.88e-01
R3 5 6 1.45e-02
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN800ELL271MJ25S_105deg-C 1 2

C1 4 2 2.22e-04
C2 5 2 1.64e-05
C3 6 2 9.87e-06
R1 3 4 1.38e-02
R2 4 5 4.54e-03
R3 5 6 4.17e+01
L1 1 3 8.00e-09

.ENDS
*$