*$
*//-----------------------------------------------------------------------//
*//   Part No. 	: EKZN250ELL152MK20S
*//   Date        	: 2024/04/05
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKZN250ELL152MK20S_20deg-C 1 2

C1 4 2 1.14e-03
C2 5 2 1.98e-04
C3 6 2 8.90e-05
C4 7 2 7.41e-02
R1 3 4 2.23e-02
R2 4 5 8.26e-02
R3 5 6 8.00e+01
R4 6 7 2.94e+04
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN250ELL152MK20S_-40deg-C 1 2

C1 4 2 3.98e-06
C2 5 2 4.52e-05
C3 6 2 1.52e-08
C4 7 2 1.20e-03
R1 3 4 2.38e-01
R2 4 5 5.08e-04
R3 5 6 1.77e-04
R4 6 7 1.66e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN250ELL152MK20S_105deg-C 1 2

C1 4 2 1.19e-03
C2 5 2 1.97e-04
C3 6 2 1.00e-04
C4 7 2 4.28e-01
R1 3 4 1.40e-02
R2 4 5 1.42e-01
R3 5 6 4.80e+01
R4 6 7 4.92e+02
L1 1 3 8.00e-09

.ENDS

*$
