*$
*//-----------------------------------------------------------------------//
*//   Part No.	: EKZN500ELL102MK35S
*//   Date        	: 2024/04/10
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKZN500ELL102MK35S_20deg-C 1 2

C1 4 2 2.03e-05
C2 5 2 1.03e-03
C3 6 2 1.85e-05
C4 7 2 4.04e-06
R1 3 4 1.48e-02
R2 4 5 2.28e-07
R3 5 6 6.78e+01
R4 6 7 2.52e+02
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN500ELL102MK35S_-40deg-C 1 2

C1 4 2 3.26e-05
C2 5 2 5.26e-04
C3 6 2 2.39e-05
C4 7 2 4.69e-04
R1 3 4 1.81e-01
R2 4 5 6.44e-02
R3 5 6 1.50e-01
R4 6 7 1.55e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN500ELL102MK35S_105deg-C 1 2

C1 4 2 1.08e-03
C2 5 2 1.00e-10
C3 6 2 3.01e-05
C4 7 2 1.00e-10
R1 3 4 9.66e-03
R2 4 5 1.60e+00
R3 5 6 4.08e+01
R4 6 7 1.05e+00
L1 1 3 8.00e-09

.ENDS

*$
