*$
*//-----------------------------------------------------------------------//
*//   Part No.		: EKZN800ELL391MK25S
*//   Date		: 2024/05/13
*//   Version    	: 1.0
*//   Comment 		: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/-25deg-C/0deg-C/60deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKZN800ELL391MK25S_20deg-C 1 2

C1 4 2 3.51e-04
C2 5 2 1.90e-05
C3 6 2 9.79e-06
C4 7 2 9.07e-06
R1 3 4 2.84e-02
R2 4 5 1.26e+00
R3 5 6 7.68e+01
R4 6 7 4.54e+02
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN800ELL391MK25S_-40deg-C 1 2

C1 4 2 6.77e-07
C2 5 2 3.63e-04
C3 6 2 7.99e-06
C4 7 2 3.38e-06
R1 3 4 3.63e-01
R2 4 5 4.28e-01
R3 5 6 6.66e+02
R4 6 7 1.78e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN800ELL391MK25S_-25deg-C 1 2

C1 4 2 2.88e-06
C2 5 2 2.26e-05
C3 6 2 3.52e-04
C4 7 2 8.56e-03
R1 3 4 1.43e-01
R2 4 5 6.86e-02
R3 5 6 2.31e-02
R4 6 7 9.80e+02
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN800ELL391MK25S_0deg-C 1 2

C1 4 2 3.19e-04
C2 5 2 1.38e-05
C3 6 2 3.40e-09
C4 7 2 4.11e-05
R1 3 4 5.67e-02
R2 4 5 1.73e+02
R3 5 6 4.94e+02
R4 6 7 2.43e+04
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN800ELL391MK25S_60deg-C 1 2

C1 4 2 3.83e-04
C2 5 2 8.88e-06
C3 6 2 1.21e-05
C4 7 2 8.79e-06
R1 3 4 1.60e-02
R2 4 5 8.18e+00
R3 5 6 5.12e+01
R4 6 7 6.06e+02
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN800ELL391MK25S_105deg-C 1 2

C1 4 2 3.89e-04
C2 5 2 1.50e-05
C3 6 2 9.70e-06
C4 7 2 1.22e-05
R1 3 4 1.27e-02
R2 4 5 3.44e+00
R3 5 6 3.77e+01
R4 6 7 4.16e+02
L1 1 3 8.00e-09

.ENDS
*$